US07842688B2
a) Benzyl 4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-1H-indol-6-ylmethoxy]piperidine-1-carboxylate
The solution of 0.155 g of benzyl 3-(1H-indol-6-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 1.5 ml of DMPU is admixed with stirring at room temperature with 0.015 g of sodium hydride dispersion (60%). The mixture is stirred over 5 minutes and subsequently admixed with 0.081 ml of 1-chloro-3-methoxypropane and 0.007 g of tetrabutylammonium iodide. The reaction mixture is stirred at room temperature over 24 hours, cooled and poured onto water (20 ml). The mixture is extracted with tert-butyl methyl ether (2×20 ml). The organic phases are washed successively with water (2×20 ml) and brine (1×20 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as an orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.25 (1:1 EtOAc-heptane); Rt=27.51 (II).

reactant | benzyl 3-(1H-indol-6-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.155 g | N1C=CC2=CC=C(C=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C39H42N2O6
reactant | sodium hydride | 0.015 g | [H-].[Na+]
reactant | 1-chloro-3-methoxypropane | 0.081 ml | ClCCCOC | C4H9ClO
solvent | DMPU | 1.5 ml | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 0.007 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Benzyl 4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-1H-indol-6-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC2=CC=C3C=CN(C3=C2)CCCOC)C=CC=C1 | C43H50N2O7
